US07183276B2
A mixture of 3-[4-(4-chlorophenyl)-2-propyl-5-oxazolyl]propionic acid (41.7 mg), 1-hydroxy-7-aza-1H-1,2,3-benzotriazole (41 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (46 mg), 4-[(1-methyl-4-piperidinyl)methyl]piperazine (60 mg) and N,N-dimethylformamide (0.5 ml) was stirred overnight at room temperature. The reaction mixture was poured into water, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was concentrated, introduced into preparative HPLC and purified. To the obtained oil was added ethyl acetate, and the mixture was washed with saturated aqueous sodium hydrogen carbonate. A 4N hydrochloric acid ethyl acetate solution was added to the ethyl acetate layer and the mixture was concentrated to give 1-{3-[4-(4-chlorophenyl)-2-propyl-5-oxazolyl]propanoyl}-4-[(1-methyl-4-piperidinyl)methyl]piperazine dihydrochloride (25.0 mg, yield 32%). Recrystallization from ethanol-isopropyl ether gave colorless prism crystals. melting point: 218° c (dec.).

reactant | 3-[4-(4-chlorophenyl)-2-propyl-5-oxazolyl]propionic acid | 41.7 mg | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)CCC | C15H16ClNO3
reactant | 1-hydroxy-7-aza-1H-1,2,3-benzotriazole | 41 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 46 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 4-[(1-methyl-4-piperidinyl)methyl]piperazine | 60 mg | CN1CCC(CC1)CN1CCNCC1 | C11H23N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-{3-[4-(4-chlorophenyl)-2-propyl-5-oxazolyl]propanoyl}-4-[(1-methyl-4-piperidinyl)methyl]piperazine dihydrochloride | 25.0 mg, yield 32% | Cl.Cl.ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)N1CCN(CC1)CC1CCN(CC1)C)CCC | InChI=1S/C26H37ClN4O2.2ClH/c1-3-4-24-28-26(21-5-7-22(27)8-6-21)23(33-24)9-10-25(32)31-17-15-30(16-18-31)19-20-11-13-29(2)14-12-20;;/h5-8,20H,3-4,9-19H2,1-2H3;2*1H
